US08110687B2
To a solution of 2-amino-4-nitropyridine (3.0 g, 0.018 mol) in pyridine (40 mL) was added acetic anhydride (5.2 mL 0.055 mol). The reaction mixture was allowed to stir for 30 h at rt. Water was added to the solution and the resulting solid was collected and washed with water and dried under vacuum to give N-(4-nitropyridin-2-yl)acetamide as a brown solid (3.3 g, 99%). 1HNMR (300 MHz, CDCl3) δ: 8.90 (s, 1H), 8.50 (d, 1H), 8.30 (br s, 1H), 7.8 (dd, 1H), 2.3 (s, 3H); LCMS: (FA) ES+ 182.2.

reactant | 2-amino-4-nitropyridine | 0.018 mol, 3.0 g | NC1=NC=CC(=C1)[N+](=O)[O-] | C5H5N3O2
reactant | acetic anhydride | 0.055 mol, 5.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-nitropyridin-2-yl)acetamide | 3.3 g, 99% | [N+](=O)([O-])C1=CC(=NC=C1)NC(C)=O | C7H7N3O3
